US07419984B2
Following the method described in Example 135 for the synthesis of 4-(5-bromo-2-propoxy-phenyl)-6-chloro-pyrimidin-2-ylamine, 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-bromo-phenol and benzyl alcohol provided 4-(2-benzyloxy-5-bromo-phenyl)-6-chloro-pyrimidin-2-ylamine (43% yield).

reactant | 4-(5-bromo-2-propoxy-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)OCCC | C13H13BrClN3O
reactant | 2-(2-amino-6-chloro-pyrimidin-4-yl)-4-bromo-phenol | NC1=NC(=CC(=N1)C1=C(C=CC(=C1)Br)O)Cl | C10H7BrClN3O
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 4-(2-benzyloxy-5-bromo-phenyl)-6-chloro-pyrimidin-2-ylamine | 43% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)C1=NC(=NC(=C1)Cl)N | C17H13BrClN3O
